US20010047031A1
(RS)-3-(3-Methoxy-phenylsulfanyl)-1-(toluene-4-sulfonyl)-pyrrolidine
The title compound, MS: m/e=363.1 (M+) was prepared from (RS)-toluene-4-sulfonic acid 1-(toluene-4-sulfonyl)-pyrrolidin-3-yl ester and 3-methoxythiophenol and by using DMF as solvent instead of acetonitrile.

reactant | (RS)-toluene-4-sulfonic acid 1-(toluene-4-sulfonyl)-pyrrolidin-3-yl ester | C1(=CC=C(C=C1)S(=O)(=O)N1CC(CC1)OS(=O)(=O)C1=CC=C(C=C1)C)C | C18H21NO5S2
reactant | 3-methoxythiophenol | COC=1C=C(C=CC1)S | C7H8OS
product | (RS)-3-(3-Methoxy-phenylsulfanyl)-1-(toluene-4-sulfonyl)-pyrrolidine | COC=1C=C(C=CC1)SC1CN(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C18H21NO3S2
